US05541186
A solution of 230 mg of Na methylate in 15 ml of methanol, 1.45 g of dimethyl (2-chloro-5-methoxy-phenoxy)-malonate and 381 mg of thiourea was held at reflux for 5 hours. Then, the solvent was distilled off and the residue was dissolved in 10 ml of H2O. 630 mg of dimethyl sulfate were added to this solution and it was stirred at room temperature for 2 hours. 300 mg of acetic acid were then added, whereby the 5-(2-chloro-5-methoxy-phenoxy)-4,6-dihydroxy-2-methylsulfanyl-pyrimidine which formed separated. MS: 314 (M).

reactant | dimethyl (2-chloro-5-methoxy-phenoxy)-malonate | 1.45 g | ClC1=C(OC(C(=O)OC)C(=O)OC)C=C(C=C1)OC | C12H13ClO6
reactant | thiourea | 381 mg | NC(=S)N | CH4N2S
reactant | methanol | 15 ml | CO | CH4O
product | 5-(2-chloro-5-methoxy-phenoxy)-4,6-dihydroxy-2-methylsulfanyl-pyrimidine | ClC1=C(OC=2C(=NC(=NC2O)SC)O)C=C(C=C1)OC | C12H11ClN2O4S
